US07071340B2
375 mg (2.5 mmol) of sodium iodide are added to 560 mg (2.08 mmol) of methyl 4-{[2-(chloromethyl)-2-propenyl]oxy}-3-formylbenzoate in solution in 20 ml of acetone. The solution is brought to reflux and is stirred for 5 hours with the exclusion of light. After the usual treatments, 680 mg (91%) of methyl 4-{[2-(iodomethyl)-2-propenyl]oxy}-3-formylbenzoate are obtained in the form of a white solid which turns yellow in light; 1H NMR (300 MHz, CDCl3): 10.48 (s, 1H), 8.48 (d, J=2.4 Hz, 1H), 8.21 (dd, J=2.4 Hz and 8.7 Hz, 1H), 7.07 (d, J=8.7 Hz, 1H), 5.54 (s, 1H), 5.35 (s, 1H), 4.87 (s, 2H), 4.04 (s, 2H), 3.89 (s, 3H, m).

reactant | sodium iodide | 2.5 mmol, 375 mg | [I-].[Na+]
reactant | methyl 4-{[2-(chloromethyl)-2-propenyl]oxy}-3-formylbenzoate | 2.08 mmol, 560 mg | ClCC(COC1=C(C=C(C(=O)OC)C=C1)C=O)=C | C13H13ClO4
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | methyl 4-{[2-(iodomethyl)-2-propenyl]oxy}-3-formylbenzoate | 680 mg, 91% | ICC(COC1=C(C=C(C(=O)OC)C=C1)C=O)=C | C13H13IO4
